US06162930
To a well stirred solution of 2-(4'-methoxyphenyl)-4-methoxybenzo[b]thiophene (0.200 g, 0.74 mmol) and 3,4,5-trimethoxybenzoyl chloride (0.184 g, 0.74 mmol) in CH2Cl2 (7mL) was added AlCl3 (0.200 g, 1.48 mmol) portion-wise over a 15 minute period. After 18 h, water was added, and the product was isolated initially with CH2Cl2 and subsequently by extraction with EtOAc. The organic layers were separately washed sequentially with NaHCO3 and brine and then dried over MgSO4. Purification by flash chromatography (silica gel, 70:30 hexane/EtOAc) afforded benzo[b]thiophene (0.023 g, 0.05 mmol, 7%) as a white solid. Recrystallization (Ethanol/hexane/CH2Cl2) yielded a highly pure crystalline sample. 1H-NMR (CDCl3, 360 MHz) δ7.80 (d, J=8.4 Hz, 1H, ArH), 7.73 (d, J=8.8 Hz, 2H, ArH), 7.66 (s, 1H, ArH), 7.02 (s, 2H, ArH), 6.96 (d, J=8.8 Hz, 2H, ArH), 6.70 (d, J=8.3 Hz, 1H, arH), 4.08 (s, 3H, --OCH3), 3.95 (s, 3H, --OCH3), 3.91 (s, 6H, --OCH3), 3.87 (S, 3H, --OCH3), HRMS (EI) M+ calcd for C26H24O6S 464.1294, found 464.1310. Anal. Calcd for C26H24O6S: C, 67.23; H, 5.21; S, 6.90. Found C, 67.19; H, 5.26; S, 6.87. Compound 13A shows an inhibition of tubulin polymerization >40 μM. Biological activity of compound 13A is shown in Table 19.

reactant | 2-(4'-methoxyphenyl)-4-methoxybenzo[b]thiophene | 0.74 mmol, 0.200 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2OC | C16H14O2S
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.74 mmol, 0.184 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | AlCl3 | 1.48 mmol, 0.200 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | CH2Cl2 | 7mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzo[b]thiophene | 0.05 mmol, 0.023 g, 7% | S1C2=C(C=C1)C=CC=C2 | C8H6S
